US06586421B2
A mixture of 3-benzoyl-8,9-dichloro-1,2,3,4,5,6-hexahydroazepino[4,5-b]indole (2.00 g, 5.57 mmol), potassium hydroxide (3.00 g, 53.5 mmol), and ethylene glycol (15 mL) was heated to 170° C. After 2 h, the reaction was cooled to room temperature, diluted with H2O, and extracted with CH2Cl2. The combined organic extracts were washed with brine, dried over Na2SO4, decanted, and concentrated under reduced pressure. The crude product was purified by silica gel chromatography with CH2Cl2/MeOH/Et2NH (9:1:0 followed by 97:3:1 followed by 95:4:1) to give 1.04 g (73%) of 8,9-dichloro-1,2,3,4,5,6-hexahydroazepino[4,5-b]indole as a dark yellow solid. 1H NMR (d-CHCl3) δ 7.75, 7.50, 7.34, 3.08, 2.92, 2.82, 1.91; MS (ESI) 255.1 (M++H).

reactant | 3-benzoyl-8,9-dichloro-1,2,3,4,5,6-hexahydroazepino[4,5-b]indole | 5.57 mmol, 2.00 g | C(C1=CC=CC=C1)(=O)N1CCC=2NC=3C=C(C(=CC3C2CC1)Cl)Cl | C19H16Cl2N2O
reactant | potassium hydroxide | 53.5 mmol, 3.00 g | [OH-].[K+]
reactant | ethylene glycol | 15 mL | C(CO)O | C2H6O2
solvent | H2O | O | H2O
product | 8,9-dichloro-1,2,3,4,5,6-hexahydroazepino[4,5-b]indole | 1.04 g, 73% | ClC=1C(=CC=2C3=C(NC2C1)CCNCC3)Cl | C12H12Cl2N2
